US07659296B2
A. 1-Benzyloxy-4-iodo-2-methyl-benzene
A mechanically stirred mixture of 4-iodo-2-methylphenol (1.62 moles; 391 g), cesium carbonate (1.99 moles; 650 g), and 1.75 L of acetone is treated with benzyl bromide (1.70 moles; 203 mL; 291 g) over 15 m. The reaction mixture was stirred for 21 h at RT and filtered. The filter cake is washed with 1 L of acetone, and the combined filtrates are concentrated. The crude semi-solid is recrystallized from pentane to give 475 grams (90%) of the desired product as a white solid. 1H NMR (CDCl3) δ: 7.40 (m, 7H), 6.64 (d, J=8.6 Hz, 1H), 5.06 (s, 2H), 2.24 (s, 3H).

reactant | 4-iodo-2-methylphenol | 1.62 moles, 391 g | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | cesium carbonate | 1.99 moles, 650 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 1.70 moles, 203 mL, 291 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 1.75 L | CC(=O)C | C3H6O
product | 1-Benzyloxy-4-iodo-2-methyl-benzene | 475 grams, 90% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)I)C | C14H13IO
